US06759420B1
c) {[3-(4-Carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionyl]-cyclohexylmethyl-amino}-acetic acid
({2-(R,S)-Cyclohexyl-3-[4-(N-hydroxycarbamimidoyl)-phenyl]-propionyl}-cyclohexylmethyl-amino)-acetic acid (1.5 g, 3.38 mmol) was dissolved in acetic acid (40 ml). After addition of palladium on charcoal (10%, 100 mg), hydroxgen was bubbled in the reaction mixture at 50°C. for 8 hours. The catalyst was filtered off and washed with acetic acid. The filtrate was evaporated, the residue dissolved in water, lyophilized and purified by chromatography on Sephadex LH20 employing n-butanol (17): glacial acetic acid (1): water (2) was eluent. Pure fractions were combined. The solvent was evaporated, the residue was taken up in water, and the aqueous solution was lyophilized. Yield: 190 mg (13%), MS m/z 428.4 (M+H)+.

reactant | ({2-(R,S)-Cyclohexyl-3-[4-(N-hydroxycarbamimidoyl)-phenyl]-propionyl}-cyclohexylmethyl-amino)-acetic acid | 3.38 mmol, 1.5 g | C1(CCCCC1)C(C(=O)N(CC1CCCCC1)CC(=O)O)CC1=CC=C(C=C1)C(NO)=N | C25H37N3O4
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | {[3-(4-Carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionyl]-cyclohexylmethyl-amino}-acetic acid | C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N(CC1CCCCC1)CC(=O)O)C1CCCCC1 | C25H37N3O3
